datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:27])([H:25])[H:26]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])([H:10])[H:11],64.3499
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])[H:7])[H:6],31.4218
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[O:3][H:11])([H:4])([H:5])[H:6].[H:7][H:12],11.2131
[H:8].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][H:8].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][O:16][C:15]([H:17])([H:18])[H:19],36.020056
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5]=[C:6]=[O:7]>>[C:0]([O:1][C:6]([O:5])=[O:7])([H:2])([H:3])[H:4],38.4928
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[H:15][H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:16])([H:6])([H:7])[H:8].[H:15],108.90952
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][O:30][H:31],2.53132
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[S:10]=[C:11]([S:12][H:14])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:13])[H:5].[S:10]=[C:11][S:12][H:14],129.369
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12]([C:11]([H:16])([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])[H:6])([H:4])[H:5],57.6555
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](#[C:12][C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:13]([C:12]#[C:11][H:14])([H:15])[H:16])[H:5],41.4216
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](#[C:18][C:19]([C:20]([H:23])([H:24])[H:25])[C:21]([H:26])([H:27])[H:28])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:19]([C:18]#[C:17][H:22])([C:20]([H:23])([H:24])[H:25])[C:21]([H:26])([H:27])[H:28])[H:7],40.9195
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21])[H:20])[H:12])([H:10])[H:11],52.3
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:21])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[H:22])([H:18])([H:19])[H:20],102.926
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]#[C:9][H:18])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])[C:7]1([C:8]#[C:9][H:18])[H:17])[H:10],117.529
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:12][O:17][O:16][C:15]([H:18])([H:19])[H:20],68.99416
